US09376429B2
Preparation of 4-((4,6-bis(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide
10 mg (0.04 mmol) of 4,6-bis(1-methyl-1H-pyrazol-4-yl)pyridin-3-ol was dissolved in 3 mL of N,N-dimethylformamide, and 32 mg (0.1 mmol) of Cs2CO3 was added thereto, followed by stirring at room temperature for 10 minutes. Then, 11 mg (0.04 mmol) of 3-cyano-4-fluoro-N-(thiazol-2-yl)benzenesulfonamide was added thereto, and the solution was stirred at room temperature for 3 hours. After completion of the reaction as checked by TLC, the solvent was removed, and the remaining material was diluted with ethyl acetate and washed with saturated sodium chloride. The organic layer was collected, dried with magnesium sulfate to remove water, and concentrated under reduced pressure, and the residue was purified by column chromatography (developing solvent, hexane:ethyl acetate=3:1) to obtain 16.0 mg (80% yield) of the title compound.

reactant | 4,6-bis(1-methyl-1H-pyrazol-4-yl)pyridin-3-ol | 0.04 mmol, 10 mg | CN1N=CC(=C1)C1=C(C=NC(=C1)C=1C=NN(C1)C)O | C13H13N5O
reactant | Cs2CO3 | 0.1 mmol, 32 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-cyano-4-fluoro-N-(thiazol-2-yl)benzenesulfonamide | 0.04 mmol, 11 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC=1SC=CN1 | C10H6FN3O2S2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 4-((4,6-bis(1-methyl-1H-pyrazol-4-yl)pyridin-3-yl)oxy)-3-cyano-N-(thiazol-2-yl)benzenesulfonamide | 16.0 mg, 80% yield | CN1N=CC(=C1)C1=C(C=NC(=C1)C=1C=NN(C1)C)OC1=C(C=C(C=C1)S(=O)(=O)NC=1SC=CN1)C#N | C23H18N8O3S2
